US07985755B2
5-[1-(2,4-Difluorobenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine hydrochloride (Example-010).
The benzylamine was obtained by reacting 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (75 mg; 0.27 mmol) and 2,4-difluorobenzyl chloride (69 mg; 0.35 mmol) via Method BB. Solids were suspended in 2 mL dioxane and 0.5 mL 4M HCl in dioxane was added and after 2 hours stirring at room temperature solids were collected by filtration to yield 92 mg. (78% yield). 1HNMR (400 MHz, DMSO-d6) δ 12.8 (s, 1H), 11.2 (s, 1H), 8.84 (s, 1H), 8.23 (s, 1H), 7.88 (q, J=8.8, 6.4 Hz, 1H), 7.7 (m, 2H), 7.4 (m, 1H), 7.23 (m, 1H), 7.02 (m, 2H), 4.28 (d, J=4.4 Hz, 2H), 4.17 (d, J=6.4 Hz, 2H), 3.4 (br d, J=11.6 Hz, 2H), 2.95 (m, 2H), 2.23 (m, 1H), 1.81 (d, J=13.2 Hz, 2H), 1.73 (m, 2H). MS m/z (ESI) 400 (M+H)+.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.27 mmol, 75 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | 2,4-difluorobenzyl chloride | 0.35 mmol, 69 mg | FC1=C(CCl)C=CC(=C1)F | C7H5ClF2
reactant | HCl | 4M, 0.5 mL | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-[1-(2,4-Difluorobenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine hydrochloride | 78% yield | Cl.FC1=C(CN2CCC(CC2)COC2=C3C(=NC(=NC3=CC=C2)N)N)C=CC(=C1)F | InChI=1S/C21H23F2N5O.ClH/c22-15-5-4-14(16(23)10-15)11-28-8-6-13(7-9-28)12-29-18-3-1-2-17-19(18)20(24)27-21(25)26-17;/h1-5,10,13H,6-9,11-12H2,(H4,24,25,26,27);1H
